US07186729B2
Step 1: (5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-acetic acid methyl ester
A solution of 5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol (0.14 g, 0.28 mmol) in dimethylformamide (3 mL) was treated with sodium hydride (60% in mineral oil, 0.016 g, 0.4 mmol) and methyl bromoacetate (0.038 mL, 0.4 mmol). The mixture was allowed to stir at rt for 2 hr, then quenched with aqueous brine, and extracted with ethyl acetate (3×10 mL). The combined organics were washed several time with water, dried over sodium sulfate, and evaporated in vacuo. The residue was purified by silica gel chromatography (ethyl acetate→487:10:3 ethyl acetate/methanol/triethylamine) to yield 0.07 g (50%) of the title compound, ESI-MS m/z: 549 [M+1].

reactant | 5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol | 0.28 mmol, 0.14 g | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)O)C)O | C28H29ClN2O3
reactant | sodium hydride | 0.4 mmol, 0.016 g | [H-].[Na+]
reactant | methyl bromoacetate | 0.4 mmol, 0.038 mL | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-acetic acid methyl ester | 0.07 g, 50% | COC(COC1=CC2=C(OCC3=C(C2=CCCN2CC(C(CC2)(O)C2=CC=C(C=C2)Cl)C)C=CC=N3)C=C1)=O | C31H33ClN2O5
